US04724236
5,11-Dihydro-11-[1-oxo-6-(1-piperidinyl)-4-hexynyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one
A mixture consisting of 9.6 g (0.03 mol) of 5,11-dihydro-11-[1-oxo-4-pentynyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one, 1.08 g (0.036 mol) of paraformaldehyde, 3.06 g (0.036 mol) of piperidine, 0.2 g of copper(I) chloride and 150 ml of dioxan is refluxed for 1 hour. After the reaction has ended the insoluble constituents are filtered off and the filtrate is evaporated to dryness in vacuo. The crude product is purified by column chromatography on silica gel (mobile phase: ethyl acetate, ethyl acetate+10% methanol). After recrystallisation from ethyl acetate, 2.7 g (21% of theory) of the desired compound are obtained, m.p. 197° C.

reactant | 5,11-dihydro-11-[1-oxo-4-pentynyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | 0.03 mol, 9.6 g | O=C(CCC#C)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C17H13N3O2
reactant | paraformaldehyde | 0.036 mol, 1.08 g | C=O | CH2O
reactant | piperidine | 0.036 mol, 3.06 g | N1CCCCC1 | C5H11N
catalyst | copper(I) chloride | 0.2 g | [Cu]Cl
solvent | dioxan | 150 ml | O1CCOCC1 | C4H8O2
product | 5,11-Dihydro-11-[1-oxo-6-(1-piperidinyl)-4-hexynyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | O=C(CCC#CCN1CCCCC1)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C23H24N4O2
